US05530028
Preparation of 2-Ethyl-3-Methoxy-4-Methylbenzoic Acid
2-(2-Ethyl-3-methoxy-4-methylphenyl)-5,5-dimethyloxazoline, synthesized in like manner according to EXAMPLE 10, (2.7 g, 13.1 mmoles) and 2.2 mL (35.3 mmoles) of methyl iodide were dissolved in 4 mL of dimethyl sulfoxide. The resultant mixture was stirred for 18 hours at room temperature. A solution of 4.2 g of potassium hydroxide in 35 mL of water was added, and the mixture was heated at reflux for 8 hours. About 40 g ice was added, and the solution was extracted with ether. The aqueous layer was cooled on ice and acidified with 5% hydrochloric acid. The resulting precipitate was filtered and air-dried to yield 1.69 g of product. 1H NMR (200 MHz, CDCl3), δ=7.72 (1H, d, 8 Hz), 7.1 (1H, d, 8 Hz), 3.77 (3H, s), 3.06 (2H, q, 7 Hz), 2.36 (3H, s), 1.22 (3H, t, 7 Hz) ppm.

reactant | 2-(2-Ethyl-3-methoxy-4-methylphenyl)-5,5-dimethyloxazoline | C(C)C1=C(C=CC(=C1OC)C)C=1OC(CN1)(C)C | C15H21NO2
reactant | methyl iodide | 35.3 mmoles, 2.2 mL | CI | CH3I
reactant | potassium hydroxide | 4.2 g | [OH-].[K+]
solvent | dimethyl sulfoxide | 4 mL | CS(=O)C | C2H6OS
solvent | water | 35 mL | O | H2O
product | 2-Ethyl-3-Methoxy-4-Methylbenzoic Acid | 1.69 g | C(C)C1=C(C(=O)O)C=CC(=C1OC)C | C11H14O3
